US06753423B1
B. 3-Benzyloxymethyl-3′-benzyloxymethylthymidine
A solution of 3-benzyloxymethyl-3′-benzyloxymethyl-5′-O-tert-butyldiphenylsilylthymidine (20 g, 28 mmol) in THF (200 ml) was treated with tert-butyl ammonium fluoride 1 M/THF (40 ml, 40 mmol) at room temperature for 16 hrs. The solution was concentrated in vacuo and the resulting oil chromatographed on silica gel (EtOAc/hexane, 7/3→8/2) to afford the product, 10 g (75%). m.p. 83-84° C.; 1H NMR (CDCl3), 1.92 (s, 3H, C5-CH3), 2.20-2.50 (m, 3H, C2′H, C5′OH), 3.73 (dd, 1H, C5′HH), 3.89 (dd, 1H, C5′HH), 4.09 (m, 1H, C4′H), 4.49 (m, 1H, C3′H) 4.62 (s, 2H, OCH2Ph), 4.70 (s, 2H, OCH2Ph), 4.81 (s, 2H, OCH2O), 5.49 (s, 2H, NCH2O), 6.19 (t, 1H, C1′H), 7.26-7.37 (m, 5H, CH═,ArH). Anal. Calcd. for C26H30N2O7: C, 64.94; H, 6.26; N, 5.75. Found: C, 64.71; H, 6.27; N, 5.81.

reactant | 3-benzyloxymethyl-3′-benzyloxymethyl-5′-O-tert-butyldiphenylsilylthymidine | 28 mmol, 20 g | C(C1=CC=CC=C1)OCN1C(N([C@H]2C[C@](O)([C@@H](CO[Si](C3=CC=CC=C3)(C3=CC=CC=C3)C(C)(C)C)O2)COCC2=CC=CC=C2)C=C(C1=O)C)=O | C42H48N2O7Si
reactant | tert-butyl ammonium fluoride | 1 M | [F-].C(C)(C)(C)[NH3+]
solvent | THF | 200 ml | C1CCOC1 | C4H8O
solvent | THF | 40 mmol, 40 ml | C1CCOC1 | C4H8O
product | 3-Benzyloxymethyl-3′-benzyloxymethylthymidine | C(C1=CC=CC=C1)OCN1C(N([C@H]2C[C@](O)([C@@H](CO)O2)COCC2=CC=CC=C2)C=C(C1=O)C)=O | C26H30N2O7
